US04265890
A mixture of 0.45 g. (0.0013 mole) of 9-chloro-8-hydroxy-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine and 0.2 ml. (0.0026 mole) of acetyl bromide in trifluoroacetic acid is heated to reflux on a steam bath for 2 hours. The reaction mixture is concentrated and the residue is taken up in 100 ml. of methylene chloride. This solution is dried and evaporated to give 8-acetoxy-9-chloro-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 9-chloro-8-hydroxy-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0013 mole | ClC1=C(C(=C(C2=C1CCN(CC2)C)SC2=CC=CC=C2)OC)O | C18H20ClNO2S
reactant | acetyl bromide | 0.0026 mole | C(C)(=O)Br | C2H3BrO
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 8-acetoxy-9-chloro-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)OC=1C(=C(C2=C(CCN(CC2)C)C1Cl)SC1=CC=CC=C1)OC | C20H22ClNO3S
